US08609688B2
3-{3-[4-(1-Aminocyclobutyl)phenyl]-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine trihydrochloride
tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate (29.0 mg, 0.0449 mmol) was dissolved in DCM (1 mL). 4M HCl/dioxane (1 mL) was added to the mixture and stirred at room temperature for 2 hours. The mixture was concentrated and solidified with ether. The precipitated solids were collected by filtration and washed with ether to afford desired product (33.2 mg, 85.1%) as pale yellow solid.

reactant | tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate | 0.0449 mmol, 29.0 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CCS(CC2)(=O)=O)C=2C(=NC=CC2)N)=O | C36H39N7O4S
reactant | HCl dioxane | 4M, 1 mL | Cl.O1CCOCC1
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-{3-[4-(1-Aminocyclobutyl)phenyl]-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}pyridin-2-amine trihydrochloride | 33.2 mg, 85.1% | Cl.Cl.Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CCS(CC2)(=O)=O)C=2C(=NC=CC2)N | InChI=1S/C31H31N7O2S.3ClH/c32-28-25(6-2-15-34-28)29-36-27-12-11-26(21-4-1-5-24(20-21)37-16-18-41(39,40)19-17-37)35-30(27)38(29)23-9-7-22(8-10-23)31(33)13-3-14-31;;;/h1-2,4-12,15,20H,3,13-14,16-19,33H2,(H2,32,34);3*1H
